US07714168B2
According to the same method as that of Production Example 1, 1,1-diethyl-2-propynylamine was used in place of 2,2-dimethylpropylamine, 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride was used in place of 4-(2-propynyloxy)-3-methoxybenzoyl chloride to obtain N-(1,1-diethyl-2-propynyl)-3,5-difluoro-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 52 of the present invention) represented by the formula:

reactant | 1,1-diethyl-2-propynylamine | C(C)C(C#C)(CC)N | C7H13N
reactant | 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride | FC=1C=C(C(=O)Cl)C=C(C1OCC#C)F | C10H5ClF2O2
product | N-(1,1-diethyl-2-propynyl)-3,5-difluoro-4-(2-propynyloxy)benzamide | C(C)C(C#C)(CC)NC(C1=CC(=C(C(=C1)F)OCC#C)F)=O | C17H17F2NO2
